US05965743
1.67 g of 4-[3-(4-tolyloxy)propyloxy]benzyl alcohol were dissolved in 30 ml of chloroform, and the resultant solution was then stirred for 1 hour at room temperature after conducting the dropping of 0.88 g of thionyl chloride into the solution. The solution reacted was then poured into ice-water and extracted with chloroform, and the organic layer resulted was dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure thereby affording 1.9 g of 4-[3-(4-tolyloxy)propyloxy]benzyl chloride.

reactant | 4-[3-(4-tolyloxy)propyloxy]benzyl alcohol | 1.67 g | C1(=CC=C(C=C1)OCCCOC1=CC=C(CO)C=C1)C | C17H20O3
reactant | thionyl chloride | 0.88 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[3-(4-tolyloxy)propyloxy]benzyl chloride | 1.9 g | C1(=CC=C(C=C1)OCCCOC1=CC=C(CCl)C=C1)C | C17H19ClO2
